US05817678
Step B: Preparation of 1-Phenethyl-cis-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine
cis-3-Methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine (59.0 mg, 0.149 mmol) was dissolved in MeOH (2 mL). Phenylacetaldehyde (52.3 ul, 0.447 mmol) was added followed by sodium cyanoborohydride (28.1 mg, 0.447 mmol). The solution was stirred overnight at ambient temperature. The MeOH was removed under reduced pressure and chromatography (silica gel, 1-2% MeOH/CH2Cl2 /NH4OH) gave the title compound as a white solid. 1H NMR (CDCl3); δ7.62 (d, 2H, J=8 Hz), 7.50 (s, 1H), 7.08-7.37 (m, 7H), 6.88 (s, 1H), 6.46 (br s, 1H), 5.22 (s, 2H), 3.64 (s, 3H), 3.27-3.19 (m, 1H), 3.03-3.20 (m, 1H), 2.86-3.00 (m, 1H),2.73-2.85 (m, 3H), 2.44-2.70 (m, 5H), 2.26-2.41 (m, 2H), 1.98-2.10 (m, 2H), 1.80-1.95 (m, 1H). FAB MS 500 (M+1)

reactant | cis-3-Methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine | 0.149 mmol, 59.0 mg | COC(=O)[C@@H]1CNC[C@@H](C1)C(NCCC1=CN=CN1CC1=CC=C(C=C1)C#N)=O | C21H25N5O3
reactant | Phenylacetaldehyde | 0.447 mmol, 52.3 ul | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium cyanoborohydride | 0.447 mmol, 28.1 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 1-Phenethyl-cis-3-methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine | C(CC1=CC=CC=C1)N1C[C@H](C[C@H](C1)C(NCCC1=CN=CN1CC1=CC=C(C=C1)C#N)=O)C(=O)OC | C29H33N5O3
